US08729117B2
To a 250 mL round-bottomed flask with a teflon stir bar and a reflux condensor were added methyl (3-bromo-5-formyl-4-hydroxyphenyl)acetate (23.3 g, 85.3 mmol, prepared as described in Reference A above), dichloromethane (100 mL), benzyl bromide (15.32 g, 10.64 mL, 89.59 mmol), and N-ethyldiisopropylamine (11.6 g, 15.6 mL, 89.5 mmol). The reaction mixture was heated to reflux for 14 h and then allowed to cool to room temperature. Dichloromethane (100 mL) was added and the organic layer was separated and washed with 200 mL of a 3% solution of NaOH in water. The organic layer was concentrated to give (4-benzyloxy-3-bromo-5-formyl-phenyl)acetic acid methyl ester (30.65 g) as oil.

reactant | methyl (3-bromo-5-formyl-4-hydroxyphenyl)acetate | BrC=1C=C(C=C(C1O)C=O)CC(=O)OC | C10H9BrO4
reactant | benzyl bromide | 89.59 mmol, 10.64 mL, 15.32 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | N-ethyldiisopropylamine | 89.5 mmol, 15.6 mL, 11.6 g | C(C)N(C(C)C)C(C)C | C8H19N
solvent | Dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | (4-benzyloxy-3-bromo-5-formyl-phenyl)acetic acid methyl ester | 30.65 g | COC(CC1=CC(=C(C(=C1)C=O)OCC1=CC=CC=C1)Br)=O | C17H15BrO4
